US05834434
2-bromo-4-nitrobenzoic acid
2-bromo-4-nitrotoluene (5.00 g, 23.14 mmol) was dissolved into pyridine (23 ml) and water (46 ml). The heterogeneous mixture was heated to 60 ∞C and KMnO4 (18.29 g, 115.7 mmol) was added carefully. The mixture was then heated under reflux overnight. The reaction mixture was filtered and washed with boiling water. The solution was then made acidic and extracted into ethyl acetate, dried over Na2SO4, and the solvent was removed in vacuo. A crude NMR revealed remaining starting material so the solid was taken up in NaOH and washed with hexanes. The aqueous phase was made acidic and the product was extracted into ethyl acetate. The ethyl acetate fractions were combined and dried over Na2SO4 and the solvent was removed in vacuo to yield 3.72 g (65.4%). mp 158°-160C.; 1H NMR (CD3OD) 7.81 (1 H, d, J=8.5 Hz), 8.08 (1 H, d, J=8.5 Hz), 8.30 (1 H, s); 13C NMR (CD3OD) 121.96, 122.75, 129.36, 132.24, 139.52, 149.54, 167.75; anal. calc. for C7H4BrNO4 +0.1 ethyl acetate, C: 34.88, H: 1.90, N: 5.50; found, C: 34.68, H: 1.86, N: 5.82.

reactant | 2-bromo-4-nitrotoluene | 23.14 mmol, 5.00 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | pyridine | 23 ml | N1=CC=CC=C1 | C5H5N
reactant | KMnO4 | 115.7 mmol, 18.29 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 46 ml | O | H2O
product | 2-bromo-4-nitrobenzoic acid | BrC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4BrNO4
